US06380218B1
2-[2-(Pyridin-3-yloxy)-pyridin-3-yl]-3-oxa-1-aza-spiro[4,4]non-1-ene
A solution of N-(1-Hydroxymethyl-cyclopentyl)-2-(pyridin-3-yloxy)-nicotinamide (0.045 grams, 0.144 mmole) and phosphorus oxychloride in toluene (5 ml) was stirred over night. The mixture was concentrated to dryness and dissolved in methanol (5 ml) and potassium carbonate was added. The mixture was concentrated to give a crude product that was purified by chromatography on silica gel eluting with ethyl acetate to give a yellow oil (0.021 g). HRMS 296.1417; 1H NMR (400 mhz, CDCl3) d 1.65-1.74 (m, 4H), 1.86-1.91 (m, 2H), 1.96-2.03 (m, 2H), 4.25 (s, 2H), 7.08 (dd, J=7.5 Hz, 5.0 Hz, 1H), 7.32 (dd, J=8.3 Hz, 4.8 Hz, 1H), 7.51-7.54 (m, 1H), 8.15-8.22 (m, 2H), 8.43-8.50 (m, 2H).

reactant | N-(1-Hydroxymethyl-cyclopentyl)-2-(pyridin-3-yloxy)-nicotinamide | 0.144 mmole, 0.045 grams | OCC1(CCCC1)NC(C1=C(N=CC=C1)OC=1C=NC=CC1)=O | C17H19N3O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(Pyridin-3-yloxy)-pyridin-3-yl]-3-oxa-1-aza-spiro[4,4]non-1-ene | 0.021 g | N1=CC(=CC=C1)OC1=NC=CC=C1C1=NC2(CO1)CCCC2 | C17H17N3O2
